US04406689
In the same way, 3-[2-(4-chlorobenzyloxy)-5-pyridyl]-1,5-tetramethylene-4-thiohydantoin is prepared by reacting 2-ethoxycarbonylhexahydropyridine with thiophosgene to give N-chlorothiocarbonyl-2-ethoxycarbonylhexahydropyridine, which is then reacted with 2-(4-chlorobenzyloxy)-5-aminopyridine.

reactant | 2-ethoxycarbonylhexahydropyridine | C(C)OC(=O)C1NCCCC1 | C8H15NO2
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
product | N-chlorothiocarbonyl-2-ethoxycarbonylhexahydropyridine | ClC(=S)N1C(CCCC1)C(=O)OCC | C9H14ClNO2S
